US05639705
Preparation of a Paste Zinc Hexacyanocobaltate Catalyst
A one-liter round-bottom flask equipped with mechanical stirrer, addition funnel, and thermometer is charged with distilled water (604 g), potassium hexacyanocobaltate (14.8 g), and tert-butyl alcohol (78 g). The mixture is stirred until all of the cobalt salt dissolves. The resulting solution is heated to 30° C. A solution of zinc chloride in water (50 wt. % zinc chloride, 304 g of solution) is added over 50 min. with stirring. Stirring continues for another 30 min. at 30° C. The resulting white suspension is centrifuged. A wet cake of solids is isolated, and is resuspended with vigorous stirring in a solution of tert-butyl alcohol (204 g) and water (112 g). After all of the solids are completely suspended in the wash solution, the mixture is stirred for 30 min. The suspension is again centrifuged, and the wet solids are isolated. The solids are resuspended in 99.5% tert-butyl alcohol (288 g), centrifuged, and isolated as described above. The resulting paste contains about 24 wt. % zinc hexacyanocobaltate complex, the remainder being tert-butyl alcohol (about 64 wt. %), and water (about 12 wt. %). A sample of this paste catalyst is used "as is" as a catalyst for polyol synthesis. See Tables 1-5.

reactant | potassium hexacyanocobaltate | 14.8 g | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[Co]
reactant | cobalt | [Co] | Co
reactant | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | water | 304 g | O | H2O
solvent | tert-butyl alcohol | 288 g | C(C)(C)(C)O | C4H10O
solvent | water | 112 g | O | H2O
solvent | tert-butyl alcohol | 204 g | C(C)(C)(C)O | C4H10O
solvent | tert-butyl alcohol | 78 g | C(C)(C)(C)O | C4H10O
solvent | water | 604 g | O | H2O
product | Zinc Hexacyanocobaltate | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[Co+3].[Co+3].[Zn+2].[Zn+2].[Zn+2] | InChI=1S/12CN.2Co.3Zn/c12*1-2;;;;;/q12*-1;2*+3;3*+2
